data/mechanisms/records/IMS9-EQ9.25e.json
{"mechanism_id": "IMS9-EQ9.25e", "species": [{"species_id": "ethylhexanal_molecular_ion", "mapped_smiles": "[CH3:6][CH2:5][CH:4]([1H:10])[CH2:3][CH:2]([CH2:8][CH3:9])[CH:1]=[O+:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "butyl_cation_mz57", "mapped_smiles": "[CH2+:3][CH:4]([1H:10])[CH2:5][CH3:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "oxo_butyl_radical", "mapped_smiles": "[CH:2]([CH2:8][CH3:9])[CH:1]=[O:7]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethylhexanal_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["butyl_cation_mz57", "oxo_butyl_radical"]}], "steps": [{"step_id": "step_sigma", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_sigma", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma", "support_type": "textbook_proposed", "locator": {"page": 248, "equation": "9.25", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones (arrow labelled 'sigma')"}, "confidence": 0.65, "curator_note": "Substrate as drawn: the 2-ethylhexanal molecular ion, labelled 'm/z 128' under the structure. The skeleton is printed as C2H5-CH(H)-CH2-CH(C2H5)-CHO with the gamma hydrogen on C4 drawn EXPLICITLY, an aldehyde H on C1, and '+.' printed above the carbonyl oxygen. LOCALIZATION (convention B): the charge and odd electron are written on the oxygen exactly where the page prints them, [CH:1]=[O+:7], not carried only in the JSON fields. Bottom channel: the arrow labelled with a Greek sigma running down-right to the FORMULA 'C4H9+ / m/z 57'. Book draws 0 arc(s) and no product structure, so both moves are curator-supplied. WHICH BUTYL -- this is forced, not chosen: the only four-carbon alkyl in 2-ethylhexanal is C3-C4-C5-C6 (the ethyl branch plus C2 is three carbons), so the cleaved bond must be C2-C3 and the neutral partner is the C4H7O. radical .CH(C2H5)CH=O (71.0497). ENCODING: as in the 'i' channel the oxygen must finish neutral and spin-paired, so the two electrons of the breaking C2-C3 bond are routed one to the oxygen (pairing with its odd electron, move <1>) and one to C2 (the neutral radical's unpaired electron, move <2>), leaving C3 as the butyl cation. CAVEAT, disclosed: the book's sigma label properly denotes ionisation OF the sigma bond, i.e. a charge that was never localised on oxygen at all; this record instead starts from the O-localised molecular ion the page actually DRAWS, which is the same convention IMS9-EQ9.2 adopted for the sigma channel of an alkane. NOTE: 'm/z 57' here is C4H9+ (57.0699), a DIFFERENT ion from the C3H5O+ (57.0335) that the page also labels m/z 57 in the two rearrangement branches -- see IMS9-EQ9.25b and IMS9-EQ9.25c."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 128.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_57_hydrocarbon", "species_id": "butyl_cation_mz57", "step_id": "step_sigma", "observed_mz": 57.0699, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-04T00:00:00Z", "modified_at": "2026-08-04T00:00:00Z"}}
